US07071175B1
(a) (1 -Benzyl-pyrrolidin-3-yl)-methanol
Red-Al (160 mL of a 3.5 M solution in toluene, 560 mmol) was added to a solution of 1-benzyl-5-oxo-pyrrolidine-3-carboxylic acid (20 g, 91 mmol) in dry THF (650 mL) under argon. The reaction mixture was refluxed for 2.5 h and then poured onto a mixture of crushed ice and NaOH (20%). The phases were separated, the aqueous phase was extracted with toluene and the combined organic phases were dried and concentrated under reduced pressure to give 17.9 g of the crude product as a yellow oil.

reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
reactant | 1-benzyl-5-oxo-pyrrolidine-3-carboxylic acid | 91 mmol, 20 g | C(C1=CC=CC=C1)N1CC(CC1=O)C(=O)O | C12H13NO3
reactant | NaOH | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 650 mL | C1CCOC1 | C4H8O
product | (1 -Benzyl-pyrrolidin-3-yl)-methanol | 17.9 g | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
